US06806277B2
3.8 cm3 of diisopropylethylamine and 1.54 g of 2-(2-bromoethylthio)thiophene are added at a temperature in the region of 20° C., with stirring and under an inert atmosphere, to a solution of 2.23 g of methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate hydrobromide in 350 cm3 of anhydrous N-methylpyrrolidone. After heating for 3 hours at a temperature in the region of 60° C., the reaction mixture is cooled to approximately 20° C., poured onto 50 cm3 of water; and 25 cm3 of ethyl acetate are added. The mixture obtained is extracted 3 times with 25 cm3 of ethyl acetate. The organic extracts are combined, washed twice with 50 cm3 of distilled water and then extracted successively with 25 cm3 of 1N aqueous HCl solution (the pH is brought to 2) and then with 25 cm3 of distilled water. The aqueous phases are combined and the pH is brought to 9 by addition of 25 cm3 of a 1N aqueous sodium hydroxide solution. The resulting aqueous phase is extracted with 50 cm3 of ethyl acetate and then 3 times with 25 cm3 of ethyl acetate. The organic phases are combined, washed with 50 cm3 of distilled water and then dried over sodium sulfate, filtered and concentrated under reduced pressure (1 kPa) at a temperature in the region of 50° C. The residue is purified by chromatography under a pressure of 50 kPa of nitrogen on a column of silica gel (particle size 20-45μ; diameter 3.4 cm; weight of silica 47 g), elution being carried out with an ethyl acetate/cyclohexane (60/40 by volume) mixture and 40-cm3 fractions being collected. Fractions 8 to 42 are combined and then concentrated under the above conditions to afford 1.27 g of methyl (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate in the form of a yellow oil.

reactant | diisopropylethylamine | 3.8 cm3 | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(2-bromoethylthio)thiophene | 1.54 g | BrCCSC=1SC=CC1 | C6H7BrS2
reactant | methyl (3R,4R)-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate hydrobromide | 2.23 g | Br.O=C(CC[C@H]1[C@H](CNCC1)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC
reactant | water | 50 cm3 | O | H2O
solvent | N-methylpyrrolidone | 350 cm3 | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 25 cm3 | C(C)(=O)OCC | C4H8O2
product | methyl (3R,4R)-1-[2-(thien-2-ylthio)ethyl]-4-[3-oxo-3-(6-methoxyquinolin-4-yl)propyl]piperidine-3-carboxylate | 1.27 g | S1C(=CC=C1)SCCN1C[C@@H]([C@@H](CC1)CCC(C1=CC=NC2=CC=C(C=C12)OC)=O)C(=O)OC | C26H30N2O4S2
